US06039967
A 1% oxybutynin delivery system was prepared in the manner described in Example 8 except that the amount of oxybutynin chloride used was 1 gram and that 1 gram of Pluronic F68 was dissolved into 22 grams of water.

reactant | oxybutynin chloride | CCN(CC)CC#CCOC(=O)C(C=1C=CC=CC1)(C2CCCCC2)O.Cl
solvent | water | 22 grams | O | H2O
product | oxybutynin | 1% | CCN(CC)CC#CCOC(=O)C(C=1C=CC=CC1)(C2CCCCC2)O | C22H31NO3
